US08466186B2
(c) 4-Trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine
A mixture of 3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)-4-trifluoromethyl-benzonitrile (1.20 g; 2.39 mmol), Ra—Ni (14 mg; 0.24 mmol) and THF (50 mL) was shaken under H2-atmosphere (5 atm) overnight at rt. The mixture was filtered through celite and the celite pad was washed with THF and EtOAc. Concentration and crystallization from Et2O/PE gave the sub-title compound.

reactant | 3-(5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzo[d]imidazol-2-ylamino)-4-trifluoromethyl-benzonitrile | 2.39 mmol, 1.20 g | ClC1=CC2=C(N(C(=N2)NC=2C=C(C#N)C=CC2C(F)(F)F)C)C=C1N1CCC(CC1)C(F)(F)F | C22H18ClF6N5
catalyst | Ra—Ni | 0.24 mmol, 14 mg | [Ni] | Ni
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Trifluoromethyl-3-[5-chloro-1-methyl-6-(4-trifluoromethyl-piperidin-1-yl)-1H-benzimidazol-2-ylamino]-benzylamine | FC(C1=C(C=C(CN)C=C1)NC1=NC2=C(N1C)C=C(C(=C2)Cl)N2CCC(CC2)C(F)(F)F)(F)F | C22H22ClF6N5
